US07858640B2
[3-(2,4-difluorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.5 g), 2-(2,4-difluorobenzyl)-3-oxopentanoic acid methyl ester (0.64 g), polyphosphoric acid (2.5 mL) and dioxane (10 mL) was heated at 130° C. for 17 hours. The mixture was diluted with water and the pH adjusted to 4 by the addition of sodium acetate. The resulting precipitate was collected by filtration, washed with water and dried to give title compound as a creamy solid, 0.84 g.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.5 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(2,4-difluorobenzyl)-3-oxopentanoic acid methyl ester | 0.64 g | COC(C(C(CC)=O)CC1=C(C=C(C=C1)F)F)=O | C13H14F2O3
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | [3-(2,4-difluorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)F)F)=O)=O | C21H18F3NO4
